US05713988
N1 -hexanoylsulfanilamide was prepared as follows. To a mixture of N4 -acetylsulfanilamide (55.0 g) and pyridine (54 mL) at 95° C. was added hexanoyl chloride (28.8 g) over a period of 20 min. After an additional hour the reaction mixture was cooled to room temperature and the reaction was worked up by diluting with 600 mL D.I. water and acidifying with aqueous HCl. The product of this reaction, N4 -acetyl-N1 -hexanoylsulfanilamide, was isolated by filtration and washed with D.I. water (700 mL) to afford an off-white solid. This material was carried directly to the next step.

reactant | N4 -acetylsulfanilamide | 55.0 g | C(C)(=O)NC1=CC=C(S(=O)(=O)N)C=C1 | C8H10N2O3S
reactant | hexanoyl chloride | 28.8 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | HCl | Cl | ClH
reactant | N4 -acetyl-N1 -hexanoylsulfanilamide | C(C)(=O)NC1=CC=C(S(=O)(=O)NC(CCCCC)=O)C=C1 | C14H20N2O4S
solvent | water | O | H2O
solvent | pyridine | 54 mL | N1=CC=CC=C1 | C5H5N
product | N1 -hexanoylsulfanilamide | C(CCCCC)(=O)NS(=O)(C1=CC=C(C=C1)N)=O | C12H18N2O3S
